US07842696B2
DIPEA (118 mg, 0.16 mL, 0.92 mmol) was added to a stirred solution of 2-fluoro-6-trifluoromethyl-benzoic acid (48 mg, 0.23 mmol) in DMF (2 mL). HOBT (46 mg, 0.35 mmol) and EDCI (100 mg, 0.57 mmol) were then added at room temperature. After 2 minutes, Biphenyl-4-carboxylic acid (2-oxo-2-piperazin-1-yl-ethyl)-amide (75 mg, 0.23 mmol) was added and the resulting mixture was stirred at room temperature overnight. Cold water was then added and the product was extracted with EtOAc and the organic layer was washed with brine. The organic phase was dried over Na2SO4 and concentrated under reduced pressure to get the residue. The obtained residue was purified by column chromatography (using basic alumina and 10% MeOH in CHCl3 as eluent) to afford 60 mg (50.8% yield) of biphenyl-4-carboxylic acid {2-[4-(2-fluoro-6-trifluoromethyl-benzoyl)-piperazin-1-yl]-2-oxo-ethyl}-amide. LCMS Purity: 96.5%. 1H NMR (CDCl3): δ 7.9 (m, 2H), 7.6 (m, 6H), 7.4 (m, 4H), 4.3 (m, 2H), 3.8 (m, 3H), 3.8 (m, 3H), 3.6-(m, 2H), 3.5 (m, 1H) 3.3 (m, 2H).

reactant | DIPEA | 0.92 mmol, 0.16 mL, 118 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-fluoro-6-trifluoromethyl-benzoic acid | 0.23 mmol, 48 mg | FC1=C(C(=O)O)C(=CC=C1)C(F)(F)F | C8H4F4O2
reactant | HOBT | 0.35 mmol, 46 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.57 mmol, 100 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | Biphenyl-4-carboxylic acid (2-oxo-2-piperazin-1-yl-ethyl)-amide | 0.23 mmol, 75 mg | O=C(CNC(=O)C1=CC=C(C=C1)C1=CC=CC=C1)N1CCNCC1 | C19H21N3O2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | biphenyl-4-carboxylic acid {2-[4-(2-fluoro-6-trifluoromethyl-benzoyl)-piperazin-1-yl]-2-oxo-ethyl}-amide | 60 mg, 50.8% yield | FC1=C(C(=O)N2CCN(CC2)C(CNC(=O)C2=CC=C(C=C2)C2=CC=CC=C2)=O)C(=CC=C1)C(F)(F)F | C27H23F4N3O3
